US08202873B2
N-(2-{4-[3′-(4-Fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-ylmethyl]-pyrazol-1-yl}-ethyl)-N-methyl-methanesulfonamide hydrochloride
Dissolve (2-{4-[3′-(4-fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-ylmethyl]-pyrazol-1-yl}-ethyl)-methyl-amine (0.124 g, 0.314 mmol) in DCM (3 mL) with triethylamine (66 μL, 0.470 mmol). Add methanesulfonyl chloride (26 μL, 0.329 mmol) dropwise in DCM (1 mL). Stir the mixture for 20 hr. Dilute with saturated aqueous sodium bicarbonate then extract 3 times with DCM. Dry (sodium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 4.5:95.5 2 M ammonia in methanol:DCM), to give a yellow oil. Dissolve the oil in methanol and add ammonium chloride then sonicate the mixture for 10 min. Evaporate the solution to give the title compound as a yellow solid (0.154 g, 97%). MS (ES): m/z=474 [M+H]+.

reactant | (2-{4-[3′-(4-fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-ylmethyl]-pyrazol-1-yl}-ethyl)-methyl-amine | 0.314 mmol, 0.124 g | FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1)CCNC | C21H26FN7
reactant | triethylamine | 0.470 mmol, 66 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.329 mmol, 26 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | CO | CH4O
product | N-(2-{4-[3′-(4-Fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-ylmethyl]-pyrazol-1-yl}-ethyl)-N-methyl-methanesulfonamide hydrochloride | 0.154 g, 97% | Cl.FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1)CCN(S(=O)(=O)C)C | InChI=1S/C22H28FN7O2S.ClH/c1-27(33(2,31)32)9-14-30-17-18(15-26-30)16-28-10-12-29(13-11-28)22-21(24-7-8-25-22)19-3-5-20(23)6-4-19;/h3-8,15,17H,9-14,16H2,1-2H3;1H
